US05753679
0.278 g (0.00127 mol) of 1-benzylpiperidine-4-carboxylic acid was boiled at reflux in 5 ml of oxalyl chloride for 2 hrs. The excess oxalyl chloride was distilled off. The residue was taken up twice in toluene and concentrated each time. 0.3 g (99%) of 1-benzylpiperidine-4-carboxylic acid chloride was obtained as a pale beige solid. This was dissolved in 20 ml of toluene, treated with 0.265 ml (0.0019 mol) of triethylamine and 0.17 g (0.00165 mol) of benzyl alcohol and boiled at reflux for 18 hrs. After removal of the solvent the residue was chromatographed on silica gel with ether/hexane (1:2) as the eluent. 0.246 g (80%) of benzyl 1-benzylpiperidin-4-carboxylate was obtained as a yellow oil. MS: me/e=310 (C2H23NO2+).

reactant | triethylamine | 0.0019 mol, 0.265 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.00165 mol, 0.17 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 1-benzylpiperidin-4-carboxylate | 0.246 g, 80% | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C20H23NO2
